US05137892
1-(2,4-difluorophenyl)-7-(1,5-dioxa-8-azaspiro[5.4]dec-8-yl)-6-fluoro-1,8-naphthyridine-3-carboxylic acid
Following the procedure of Step 2 Example 331 a 0.168 g (1.17 mmol) of 1,5-dioxa-8-azaspiro[5.4]decane, from Step 2 Example 14, was reacted with 0.300 g (0.78 mmol) of 1-(2,4-difluorophenyl)-7-chloro-6-fluoro-1,8-naphthyridine-3-carboxylic acid ethyl ester by heating at 40° C. instead of 45° C. for 10 instead of 24 hours. The solvent was removed by evaporation to afford the title product which was purified by column chromatography over silica gel (0% increasing to 4% methanol/methylene chloride) to afford 0.252 g of the title compound. The ester was not further purified, but was taken directly to the next step.

reactant | 1,5-dioxa-8-azaspiro[5.4]decane | 1.17 mmol, 0.168 g | O1CCCOC12CNCC2 | C7H13NO2
reactant | 1-(2,4-difluorophenyl)-7-chloro-6-fluoro-1,8-naphthyridine-3-carboxylic acid ethyl ester | 0.78 mmol, 0.300 g | C(C)OC(=O)C=1CN(C2=NC(=C(C=C2C1)F)Cl)C1=C(C=C(C=C1)F)F | C17H12ClF3N2O2
product | 1-(2,4-difluorophenyl)-7-(1,5-dioxa-8-azaspiro[5.4]dec-8-yl)-6-fluoro-1,8-naphthyridine-3-carboxylic acid | FC1=C(C=CC(=C1)F)N1CC(=CC2=CC(=C(N=C12)N1CC2(OCCCO2)CC1)F)C(=O)O | C22H20F3N3O4
